US07767674B2
[1-(4-Methanesulfonyl-benzoyl)-piperidin-4-yl]-carbamic Acid Tert-butyl Ester
To an ice-cooled slurry of 4-N-BOC-amino-piperidine (400.8 mg, 2.0 mmol), 1-hydroxybenzotriazole (HOBt, 342.3 mg, 2.53 mmol), and p-(methylsulfonyl)-benzoic acid (445.9 mg, 2.23 mmol) in dichloromethane (6 mL) is added 1,3-dicyclohexylcarbodiimide (DCC, 496.7 mg, 2.40 mmol). The reaction mixture is stirred at 22° C. for 23 hours. The crude product is purified on a silica gel chromatography with ethyl acetate-hexanes to provide a white solid (692.9 mg, 90.6% yield, ES+(m/z) 383.1 [M+H]).

reactant | 4-N-BOC-amino-piperidine | 2.0 mmol, 400.8 mg | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | 1-hydroxybenzotriazole | 2.53 mmol, 342.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | p-(methylsulfonyl)-benzoic acid | 2.23 mmol, 445.9 mg | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | 1,3-dicyclohexylcarbodiimide | 2.40 mmol, 496.7 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | [1-(4-Methanesulfonyl-benzoyl)-piperidin-4-yl]-carbamic Acid Tert-butyl Ester | 90.6% yield | C(C)(C)(C)OC(NC1CCN(CC1)C(C1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C18H26N2O5S
